US07838675B2
N-[2-[[(2,3-difluorophenyl)methyl]thio]-6-(1,1-dimethylethoxy)-4-pyrimidinyl]-1-azetidinesulfonamide
The title compound was prepared according to the procedure outlined in example 1 step iv) using a mixture of azetidine-1-sulfonamide (prepared according to patent WO 2004/011443, 0.16 g), tris(dibenzylideneacetone)dipalladium (0) (70 mg), 2-dicyclohexylphosphino-2′,4′,6′-tri-isopropyl-1,1′-biphenyl (XPHOS) (36 mg), cesium carbonate (0.37 g) and 4-chloro-2-[[(2,3-difluorophenyl)methyl]thio]-6-(1,1-dimethylethoxy)-pyrimidine (the product from step i) (0.26 g) in dioxane (6 mL). Purification was by column chromatography on silica gel using EtOAc/isohexane (1:9 to 2:8 gradient) as eluent to give the title compound as a white solid.

reactant | azetidine-1-sulfonamide | 0.16 g | N1(CCC1)S(=O)(=O)N | C3H8N2O2S
reactant | 2-dicyclohexylphosphino-2′,4′,6′-tri-isopropyl-1,1′-biphenyl | 36 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
reactant | cesium carbonate | 0.37 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-chloro-2-[[(2,3-difluorophenyl)methyl]thio]-6-(1,1-dimethylethoxy)-pyrimidine | ClC1=NC(=NC(=C1)OC(C)(C)C)SCC1=C(C(=CC=C1)F)F | C15H15ClF2N2OS
solvent | dioxane | 6 mL | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium | 70 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-[2-[[(2,3-difluorophenyl)methyl]thio]-6-(1,1-dimethylethoxy)-4-pyrimidinyl]-1-azetidinesulfonamide | FC1=C(C=CC=C1F)CSC1=NC(=CC(=N1)NS(=O)(=O)N1CCC1)OC(C)(C)C | C18H22F2N4O3S2
